US08455477B2
6-bromo-4-methoxypyrazolo[1,5-a]pyridine (50.0 mg, 0.220 mmol) was dissolved in acetonitrile (2 ml). N-iodosuccinimide (49.5 mg, 0.220 mmol) was added and the mixture was stirred for 1 h, at which time LCMS indicated about 60% conversion. Additional N-iodosuccinimide (9.9 mg, 0.044 mmol) was added and the mixture was stirred for 30 minutes, at which time LCMS indicated about 80% conversion. Additional N-iodosuccinimide (9.9 mg, 0.044 mmol) was added and the mixture was stirred for 30 minutes, at which time LCMS indicated about 80% conversion. Additional N-iodosuccinimide (14.9 mg, 0.066 mmol) was added and the mixture was stirred for 30 minutes, at which time LCMS indicated complete conversion. The reaction mixture was diluted in ethyl acetate, washed with 1N aqueous sodium hydroxide and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/isohexane gradient) to give 6-bromo-3-iodo-4-methoxypyrazolo[1,5-a]pyridine as a colorless solid (faster eluting), along with recovered starting material 6-bromo-4-methoxypyrazolo[1,5-a]pyridine (slower eluting). 1H NMR (600 MHz, CDCl3) δ 8.25 (d, 1H); 7.80 (s, 1H); 6.47 (s, 1H); 3.93 (s, 3H). LRMS (ESI) calculated for C8H779BrIN2O [M+H]+, 352.9; found 352.8.

reactant | 6-bromo-4-methoxypyrazolo[1,5-a]pyridine | 0.220 mmol, 50.0 mg | BrC=1C=C(C=2N(C1)N=CC2)OC | C8H7BrN2O
reactant | N-iodosuccinimide | 0.220 mmol, 49.5 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | N-iodosuccinimide | 0.044 mmol, 9.9 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | N-iodosuccinimide | 0.044 mmol, 9.9 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | N-iodosuccinimide | 0.066 mmol, 14.9 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-bromo-3-iodo-4-methoxypyrazolo[1,5-a]pyridine | BrC=1C=C(C=2N(C1)N=CC2I)OC | C8H6BrIN2O
